data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1491,1646,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]#[N:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[N:24]=[N+:25]([CH3:26])[O-:27]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]#[N:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[N:24]([C:22]([NH:21][CH3:20])=[O:23])[N:25]([CH3:26])[O:27]2,water,298.15,28.01657138553137,-19.39872681709356
720,781,[CH3:16][CH:17]=[NH+:18][C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[CH:17]([CH3:16])[NH:18][C:19]3([C:20]#[N:21])[C:22]#[N:23],water,298.15,17.47628454885067,-28.93135889688233
1787,1978,[CH3:16][C:17](=[O:18])[C-:19]([C:20]#[N:21])[N+:22]([CH3:23])=[CH:24][c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[N:1]#[C:2][C:3]12[C:4]([c:5]3[cH:6][cH:7][cH:8][cH:9][cH:10]3)([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:19]([C:17]([CH3:16])=[O:18])([C:20]#[N:21])[N:22]([CH3:23])[CH:24]2[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,25.741125545850736,-3.492270871027515
4369,4990,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]([CH3:19])=[O:20])[o:21][c:22]1=[O:23]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]1([C:18]([CH3:19])=[O:20])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:22](=[O:23])[O:21]1,water,298.15,11.527355118813292,-5.040527777506956
